US06444668B1
6-(3-Chloro-phenyl)-4-ethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one
Prepared according to the procedure of Example 9 from 1-(4-amino-3′-chloro-biphenyl-3-yl)-propanol and triphosgene. White solid: mp 146-148° C.; 1H-NMR (DMSO-d6) δ10.3 (s, 1H), 7.70 (m, 1H), 7.60 (m, 3H), 7.47 (t, 1H, J=8.22 Hz), 7.39 (d, 1H, J=8.28 Hz), 6.97 (d, 1H, J=8.22 Hz), 5.4 (t, 1H, J=10.9 Hz), 1.9 (m, 2H), 0.97 (t, 3H, J=7.68 Hz); MS (ESI) m/z 286 ([M−H]−, 100%)

reactant | 1-(4-amino-3′-chloro-biphenyl-3-yl)-propanol | NC1=C(C=C(C=C1)C1=CC(=CC=C1)Cl)C(CC)O | C15H16ClNO
reactant | triphosgene | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
product | 6-(3-Chloro-phenyl)-4-ethyl-1,4-dihydro-benzo[d][1,3]oxazin-2-one | ClC=1C=C(C=CC1)C1=CC2=C(NC(OC2CC)=O)C=C1 | C16H14ClNO2
